US07456164B2
2-(1-{3-[4-(4-Dimethylaminomethyltetrahydropyran-4-yl)phenoxy]propyl}piperidin-4-yl)ethanol
4-(4-Dimethylaminomethyl-tetrahydro-pyran-4-yl)-phenol (288 mg, 1.22 mmol), 2-[1-(3-chloro-propyl)-piperidin-4-yl]-ethanol (252 mg, 1.22 mmol), DMF (8 ml) and K2CO3 (674 mg, 4.88 mmol) were reacted together according to general procedure B. Purification by chromatography on silica, eluant DCM:MeOH:NH3 (96:4:1) provided the title compound (180 mg, 36%) as an off white solid. 1H NMR (400 MHz, CDCl3) δ7.20 (d, 2H), 6.86 (d, 2H), 3.99 (t, 2H), 3.75 (dt, 2H), 3.70 (t, 2H), 3.55 (td, 2H), 2.98-2.88 (m, 2H), 2.49 (t, 2H), 2.40 (s, 2H), 2.14-1.82 (m, 6H), 1.97 (s, 6H), 1.75-1.15 (m, 10H).

reactant | 4-(4-Dimethylaminomethyl-tetrahydro-pyran-4-yl)-phenol | 1.22 mmol, 288 mg | CN(C)CC1(CCOCC1)C1=CC=C(C=C1)O | C14H21NO2
reactant | 2-[1-(3-chloro-propyl)-piperidin-4-yl]-ethanol | 1.22 mmol, 252 mg | ClCCCN1CCC(CC1)CCO | C10H20ClNO
reactant | K2CO3 | 4.88 mmol, 674 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 2-(1-{3-[4-(4-Dimethylaminomethyltetrahydropyran-4-yl)phenoxy]propyl}piperidin-4-yl)ethanol | 180 mg, 36% | CN(C)CC1(CCOCC1)C1=CC=C(OCCCN2CCC(CC2)CCO)C=C1 | C24H40N2O3
